US04559177
To a dimethylformamide solution (30 ml) of 2,3-dimethoxy-5-methylphenol (3 g) is added bis(salicylidene)ethylenediiminocobalt(II) (35 mg) and the mixture is reacted and worked up in the same manner as Example 7. The resultant crude crystals are recrystallized from hexane. The above procedure yields 2,3-dimethoxy-5-methyl-1,4-benzoquinone (2.13 g) as orange-yellow needles melting at 59° C.-60° C.

reactant | 2,3-dimethoxy-5-methylphenol | 3 g | COC1=C(C=C(C=C1OC)C)O | C9H12O3
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | salcomine | 35 mg | C1=CC=C(C(=C1)C=NCCN=CC2=CC=CC=C2[O-])[O-].[Co+2]
product | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 2.13 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
